US06867284B1
Synthesis of compound 15 (see scheme 7) Boc-Leu-OH (1.16 g, 5 mmol) was dissolved in dichloromethane (50 mL) and EDC (1.05 g, 5.5 mmol) and HOBt (743 mg, 5.5 mmol) were added. The resulting solution was cooled to 0° C. and (±)-4-Amino-6,6-difluoro-3-oxo-2-triphenylphosphoranylidene-hexanenitrile (2.32 g, 5.5 mmol) was added in one portion. The ice bath was removed and the mixture stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (100 mL) and washed successively with 1 N aqueous HCl, water, saturated aqueous NaHCO3 and brine. Drying (Na2SO4) and evaporation gave 2.7 g (85%) of Boc-Leu-6,6-difluoro-3-oxo-2-triphenylphosphoranylidene-hexanenitrile as a yellowish foam. The foregoing compound (2.7 g, 4.2 mmol) was dissolved in dichloromethane/methanol (40 ml, 7:3, v/v) and cooled to −78° C. Ozone was bubbled through the solution until the blue color remained. The solution was then purged with nitrogen and 12 mL of MeOH were added, the resulting solution was stirred at −78° C. for 30 min. and at room temperature for 2 h. Evaporation gave a light yellow oil, which was dissolved in MeOH (6 mL) and the resulting solution was cooled to 0° C. After addition portionwise of NaBH4 (159 mg, 4.2 mmol) the resulting reaction mixture was stirred at 0° C. for 2 hours, poured into saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layers were washed with brine and dried (Na2SO4). Evaporation gave a solid which was purified by flash chromatography (PE/ethyl acetate 3:2) to give 832 mg (50%) of the Boc protected dipeptide hydroxyester.

reactant | Boc-Leu-OH | 5 mmol, 1.16 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | EDC | 5.5 mmol, 1.05 g
reactant | HOBt | 5.5 mmol, 743 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (±)-4-Amino-6,6-difluoro-3-oxo-2-triphenylphosphoranylidene-hexanenitrile | 5.5 mmol, 2.32 g | NC(C(C(C#N)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC(F)F | C24H21F2N2OP
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Boc-Leu 6,6-difluoro-3-oxo-2-triphenylphosphoranylidene-hexanenitrile | 2.7 g, 85% | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.FC(CCC(C(C#N)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)F | InChI=1S/C24H20F2NOP.C11H21NO4/c25-24(26)17-16-22(28)23(18-27)29(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;1-7(2)6-8(9(13)14)12-10(15)16-11(3,4)5/h1-15,24H,16-17H2;7-8H,6H2,1-5H3,(H,12,15)(H,13,14)/t;8-/m.0/s1
